US07030138B2
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-methylnitrobenzene
To a solution of 1-t-butoxycarbonyl-4-hydroxypiperidine (3.62 g), 2-methyl-4-nitrophenol (2.55 g) and triphenylphosphine (5.25 g) in dichloromethane (100 ml), diethyl azodicarboxylate (3.2 ml) was added dropwise with stirring under ice-cooling, and the resulting mixture was stirred at room temperature overnight and then evaporated in vacuo. The residue obtained was purified by chromatography on a silica gel column using dichloromethane as the eluent to afford the title compound (4.07 g) containing impurities as a pale yellow oil.

reactant | 1-t-butoxycarbonyl-4-hydroxypiperidine | 3.62 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 2-methyl-4-nitrophenol | 2.55 g | CC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO3
reactant | triphenylphosphine | 5.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | diethyl azodicarboxylate | 3.2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-methylnitrobenzene | 4.07 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C | C17H24N2O5
